US07678815B2
5-(5-Fluoro-pyridin-3-ylamino)-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide
5-Amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide (0.15 g, 0.605 mmol) was dissolved in 5 mL fry DMF. 3,5-Difluoropyridine (0.213 g, 1.85 mmol) and cesium carbonate (0.59 g, 1.85 mmol) were added. The reaction mixture was irradiated in the microwave at 150° C. for 45 min, diluted with 100 mL water and extracted three times with ethyl acetate (50 mL each). The organic phases were pooled, dried with sodium sulfate and evaporated. The crude product was flash-chromatographed on silica gel with heptane/ethyl acetate 100:0→0:100 gradient to yield the title compound as an off-white solid (0.135 g, 65%), MS (ISP): m/e=344.1 (M+H+).

reactant | 5-Amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.605 mmol, 0.15 g | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1N)C | C11H12N4OS
reactant | 3,5-Difluoropyridine | 1.85 mmol, 0.213 g | FC=1C=NC=C(C1)F | C5H3F2N
reactant | cesium carbonate | 1.85 mmol, 0.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 5-(5-Fluoro-pyridin-3-ylamino)-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.135 g, 65% | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1NC=1C=NC=C(C1)F)C | C16H14FN5OS
